US07524882B2
Step 2. 2-Ethyl-6-hydroxy-2,3-dihydro-benzofuran-2-carboxylic acid methyl ester
The title compound was prepared following the procedure described in Example 1, Step 1 employing methyl 6-methoxy-benzofuran-2-carboxylate instead of methyl 5-methoxy-benzofuran-2-carboxylate and ethyl iodide instead of methyl iodide.

reactant | methyl 6-methoxy-benzofuran-2-carboxylate | COC1=CC2=C(C=C(O2)C(=O)OC)C=C1 | C11H10O4
reactant | ethyl iodide | C(C)I | C2H5I
product | 2-Ethyl-6-hydroxy-2,3-dihydro-benzofuran-2-carboxylic acid methyl ester | COC(=O)C1(OC2=C(C1)C=CC(=C2)O)CC | C12H14O4
